US04616014
Hydrazine hydrate (4.55 g) was added to a solution of 2-(3-cyano-2-methyl-1-isothioureido)propiophenone (5.43 g) in methanol (20 ml), and the mixture was allowed to stand at room temperature for 1 hour. After addition of catalytic amount of sodium methoxide to the solution, the mixture was allowed to stand at room temperature for 2 hours with occasional shaking. The resultant preapitates were collected, washed successively with methanol, water and methanol and dried. Thus obtained product was dissolved with dimethylformamide (25 ml), the solution was filtered by suction and then water (25 ml) was added thereto little by little. After cooling, the resultant precipitates were collected by filtration, washed successively with ethanol, water and ethanol, and dried to give 3-cyanoamino-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine (2.37 g), m.p. 244.5°~245° C. (decomp.).

reactant | Hydrazine hydrate | 4.55 g | O.NN
reactant | 2-(3-cyano-2-methyl-1-isothioureido)propiophenone | 5.43 g | C(#N)N=C(NC(C(=O)C1=CC=CC=C1)C)SC | C12H13N3OS
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-cyanoamino-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine | 2.37 g | C(#N)NC=1NN=C(C(N1)C)C1=CC=CC=C1 | C11H11N5
